US04500526
B. 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2-formylthiazolo[4,5-c]pyridinio)methyl-3-cephem-4-carboxylate (Iw)
A mixture of 2-formylthiazolo[4,5-c]pyridine (85 mg, 0.5 mmole) and diphenylmethyl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate [VIIa] (466 mg, 0.5 mmole) in 5 ml of ethyl acetate containing 2 drops of DMSO was allowed to stand overnight at room temperature and then diluted with ether to give 418 mg of crude quaternary salt. The salt was treated with 3 ml of TFA and 3 drops of anisole at room temperature for 30 minutes. The mixture was concentrated in vacuo and triturated with ether to give 283 mg of powder, which was purified by a column of packing (20 ml) in PrepPAK/C18 cartridge (for Water's System 500) using 200 ml of water and 5% aqueous CH3OH (200 ml) as eluants to give 55 mg (20%) of the title compound Iw. Mp. 135°~139° C. (dec.). Estimated purity by HPLC: 55%.

reactant | 2-formylthiazolo[4,5-c]pyridine | 0.5 mmole, 85 mg | C(=O)C=1SC2=C(C=NC=C2)N1 | C7H4N2OS
reactant | diphenylmethyl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | 0.5 mmole, 466 mg | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H38IN5O5S2
reactant | DMSO | CS(=O)C | C2H6OS
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
catalyst | anisole | 3 drops | C1(=CC=CC=C1)OC | C7H8O
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2-formylthiazolo[4,5-c]pyridinio)methyl-3-cephem-4-carboxylate | 283 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=C(SC3=C2C=NC=C3)C=O)C(=O)[O-])C1=O)=N/OC | C21H17N7O6S3
